US05162362
N-(1-Carboxy-3-phenylpropyl)-L-alanyl-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid
880 mg of N-(1-carboethoxy-3-phenylpropyl)-L-alanyl-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid are dissolved in 20 ml of dioxane/water (9:1) and are hydrolyzed at room temperature with 4.5 ml of 1N sodium hydroxide solution. After one hour, the solution is acidified with the equivalent quantity of 1N hydrochloric acid, and the dioxane is largely evaporated off. The residue is extracted several times with ethyl acetate, and, after the solvent has been stripped off, the organic phase is subjected to chromatography over a cation exchanger (DOWEX 50).

reactant | N-(1-carboethoxy-3-phenylpropyl)-L-alanyl-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | 880 mg | C(=O)(OCC)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)C1NC(CC2=CC=CC=C12)C(=O)O | C25H30N2O5
reactant | sodium hydroxide | 1N, 4.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | dioxane water | 20 ml | O1CCOCC1.O
product | N-(1-Carboxy-3-phenylpropyl)-L-alanyl-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | C(=O)(O)C(CCC1=CC=CC=C1)N[C@@H](C)C(=O)C1NC(CC2=CC=CC=C12)C(=O)O | C23H26N2O5
